US05594021
N-(3-methyl-5-isoxazolyl)-5-bromothiophene-2-sulfonamide was prepared in the same manner as described in Example 14 from 5-bromothiophene-2-sulfonyl chloride and 5-amino-3-methyl isoxazole. Purification was achieved by extraction of the crude sulfonamide into aqueous 2N NaOH, washing of the aqueous layer with ethyl acetate and acidification, using concentrated HCl, to pH ~2. Re-extraction into ethyl acetate was followed by washing of the organic material with water, brine and drying over magnesium sulfate. After evaporation of solvents, a brownish solid remained which was sufficiently pure to use in the next step.

reactant | 5-bromothiophene-2-sulfonyl chloride | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | 5-amino-3-methyl isoxazole | NC1=CC(=NO1)C | C4H6N2O
product | N-(3-methyl-5-isoxazolyl)-5-bromothiophene-2-sulfonamide | CC1=NOC(=C1)NS(=O)(=O)C=1SC(=CC1)Br | C8H7BrN2O3S2
